US07202364B2
A mixture of 4-chloro-6-fluoro-2-(trifluoromethyl)quinoline (1 g, 4.01 mmol) and NH3 (3 mL) in ethylene glycol (20 mL) is prepared at −78° C. in a sealed tube. After warming up to room temperature, the sealed tube is gradually heated to 100° C. overnight. After cooling to −78° C., the sealed tube is opened and the contents are concentrated by rotary evaporator. The residue is purified by flash chromatography on silica gel (1:3 EtOAc/hexanes) to give 4-amino-6-fluoro-2-(trifluoromethyl)quinoline as a light yellow solid.

reactant | 4-chloro-6-fluoro-2-(trifluoromethyl)quinoline | 4.01 mmol, 1 g | ClC1=CC(=NC2=CC=C(C=C12)F)C(F)(F)F | C10H4ClF4N
reactant | NH3 | 3 mL | N | H3N
solvent | ethylene glycol | 20 mL | C(CO)O | C2H6O2
product | 4-amino-6-fluoro-2-(trifluoromethyl)quinoline | NC1=CC(=NC2=CC=C(C=C12)F)C(F)(F)F | C10H6F4N2
